US07550484B2
COMPOUND 122: [2-(3,3″-Dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-ethyl]hydroxyurea
To a suspension of 2-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-ethylamine (84 mg, 0.27 mmol) in THF (3 mL) was added 1,1′-carbonyldiimidazole (44 mg, 0.27 mmol) and the mixture was heated to 60° C. After 2 h, the mixture was concentrated in vacuo. The residue was re-dissolved in DMF (3 mL) and treated with DIPEA (0.13 mL, 1.35 mmol) and NH2OH.HCl (75 mg, 1.08 mmol) and the reaction mixture was stirred overnight. Then the mixture was diluted with CH2Cl2 (20 mL) and washed with brine (5×15 mL). The organic layer was dried (MgSO4), filtered, and concentrated to afford a yellow oil. Purification by radial chromatography on silica gel (1 mm plate; using CH2Cl2/MeOH/NH4OH; 25:1:1) afforded the product as a white solid (27 mg, 27%). 1H NMR (CDCl3) δ 1.53-1.57 (m, 1H), 1.70 (d, 2H, J=15.0 Hz), 1.92-2.09 (m, 5H), 2.43-2.45 (m, 8H), 3.86 (d, 2H, J=9.0 Hz), 4.70 (br s, 1H), 6.43 (br s, 1H), 7.09 (dd, 2H, J=6.0, 3.0 Hz), 7.46 (d, 2H, J=9.0 Hz), 8.53 (d, 2H, J=3.0 Hz), 10.07 (br s, 1H). 13C NMR (CDl3) δ 19.33, 24.96, 33.13, 38.80, 55.54, 66.00, 122.70, 130.80, 139.36, 147.73, 161.02, 162.06. ES-MS m/z 370 [M+H]+. Anal. Calcd. for C20H27N5O2.0.2CH2Cl2: C, 62.78; H, 7.15; N, 18.12. Found: C, 62.86; H, 7.46; N, 17.97.

reactant | 2-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-ethylamine | 0.27 mmol, 84 mg | CC=1C(=NC=CC1)C1N(C(CCC1)C1=NC=CC=C1C)CCN | C19H26N4
reactant | 1,1′-carbonyldiimidazole | 0.27 mmol, 44 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | DIPEA | 1.35 mmol, 0.13 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH2OH.HCl | 1.08 mmol, 75 mg | NO.Cl
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | [2-(3,3″-Dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-ethyl]hydroxyurea | 27 mg, 27% | CC=1C(=NC=CC1)C1N(C(CCC1)C1=NC=CC=C1C)CCN(C(=O)N)O | C20H27N5O2
